US06756378B2
A mixture of 3-methoxy-[N′-(2-fluorophenyl)ureido]phenylacetic acid (296 mg, 0.93 mmol), methyl (S)-3-chloro-4-(2-methylamino-1-propoxy)benzoate (240 mg, 0.93 mmol), EDC (hydrochloride) (268 mg, 1.40 mmol), HOBt (189 mg, 1.40 mmol), and DMAP (23 mg, 0.19 mmol) in DMF (8 mL) was stirred at room temp for 1.5 hr. The mixture was diluted with EtOAc, washed with 0.5 N HCl, brine, dried over Na2SO4 and evaporated. The residue was purified by column chromatography on silica-gel with 5% MeOH in CHCl3 as eluent to give 520 mg (100%) methyl (S)-3-chloro-4-[2-[N-methyl-N-[3-methoxy-[N′-(2-fluorophenyl)ureido]phenylacetyl]amino]-1-propoxy]benzoate as a red-brown amorphous solid.

reactant | 3-methoxy-[N′-(2-fluorophenyl)ureido]phenylacetic acid | 0.93 mmol, 296 mg | COC=1C=C(C=CC1)C(C(=O)O)NC(=O)NC1=C(C=CC=C1)F | C16H15FN2O4
reactant | methyl (S)-3-chloro-4-(2-methylamino-1-propoxy)benzoate | 0.93 mmol, 240 mg | ClC=1C=C(C(=O)OC)C=CC1OC[C@H](C)NC | C12H16ClNO3
reactant | EDC | 1.40 mmol, 268 mg
reactant | HOBt | 1.40 mmol, 189 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
catalyst | DMAP | 0.19 mmol, 23 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl (S)-3-chloro-4-[2-[N-methyl-N-[3-methoxy-[N′-(2-fluorophenyl)ureido]phenylacetyl]amino]-1-propoxy]benzoate | 520 mg, 100% | ClC=1C=C(C(=O)OC)C=CC1OC[C@H](C)N(C(C(C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC=C1)F)=O)C | C28H29ClFN3O6
